US07317125B2
Preparation of benzoic acid N′-[2-(2-bromo-4,6-difluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide
A solution of (2-bromo-4,6-difluoro-phenoxy)-acetic acid (0.92 g, 3.45 mmol) and benzoic acid N′-isopropyl-hydrazide (738 mg, 4.14 mmol) in DMF (20 ml) was treated with diisopropylethyl amine (1.5 ml, 8.625 mmol) and PyBroP (2.41 g, 5.175 mmol) at room temperature overnight. The reaction mixture was partitioned between 1N HCl and ethyl acetate. The organic layer was successively washed with saturated sodium bicarbonate and brine, then dried over sodium sulfate, filtered and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 20-30% ethyl acetate/hexanes gradient to afford the product as a white solid (478 mg, 1.12 mmol, 32%).

reactant | (2-bromo-4,6-difluoro-phenoxy)-acetic acid | 3.45 mmol, 0.92 g | BrC1=C(OCC(=O)O)C(=CC(=C1)F)F | C8H5BrF2O3
reactant | benzoic acid N′-isopropyl-hydrazide | 4.14 mmol, 738 mg | C(C)(C)NNC(C1=CC=CC=C1)=O | C10H14N2O
reactant | diisopropylethyl amine | 8.625 mmol, 1.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBroP | 5.175 mmol, 2.41 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | benzoic acid N′-[2-(2-bromo-4,6-difluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 1.12 mmol, 478 mg, 32% | BrC1=C(OCC(=O)N(NC(C2=CC=CC=C2)=O)C(C)C)C(=CC(=C1)F)F | C18H17BrF2N2O3
